US05627193
Synthesis of 2-(4'-methylphenyl)quinoline-4-carboxylic Acid
Ten milliliters (2.2N) of a sodium hydroxide aqueous solution was added dropwise to an ethanol (20 ml) suspension containing 1.47 g of isatin and 2.67 ml of 4-methylacetophenone at room temperature, and the reaction mixture was then heat-refluxed for 5.5 hours. The resulting reaction mixture was allowed to cool, and then acidified with 2N sulfuric acid to obtain an orange-colored precipitate. This precipitate was collected by filtration, and dried to form 2.34 g of the above-mentioned compound.

reactant | sodium hydroxide | 2.2N, Ten milliliters | [OH-].[Na+]
reactant | isatin | 1.47 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 4-methylacetophenone | 2.67 ml | CC1=CC=C(C=C1)C(=O)C | C9H10O
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(4'-methylphenyl)quinoline-4-carboxylic Acid | 2.34 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C17H13NO2
